US05677470
A solution of methyl (2R,3R)-3-(4-fluorophenyl)-2,3-epoxypropionate (206 mg, 1.05 mmol) dissolved in 5 ml of methanol was cooled by an ice bath, and a solution of lithium hydroxide (30 mg, 1.26 mmol) dissolved in water (3 ml) was added to the above solution. After the mixture was stirred at room temperature for 1.5 hours, the reaction mixture was concentrated. While cooling by an ice bath, a 5% citric acid aqueous solution was added to the residue obtained, and the mixture was extracted with chloroform. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was removed to obtain (2R,3R)-3-(4-fluorophenyl)-2,3-epoxypropionic acid (which was unstable so that it could not be isolated nor purified).

reactant | methyl (2R,3R)-3-(4-fluorophenyl)-2,3-epoxypropionate | 1.05 mmol, 206 mg | FC1=CC=C(C=C1)[C@@H]1[C@H](C(=O)OC)O1 | C10H9FO3
reactant | lithium hydroxide | 1.26 mmol, 30 mg | [OH-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | (2R,3R)-3-(4-fluorophenyl)-2,3-epoxypropionic acid | FC1=CC=C(C=C1)[C@@H]1[C@H](C(=O)O)O1 | C9H7FO3
